US04584408
Preparation of phenoxy resin
A mixture of 5.58 g (0.03 mole) of bisphenol A, 5.28 g (0.03 mole) of methyl 2-oxo-1,3-dioxolan-4-ylmethyl carbonate, 0.174 g (0.003 mole) of KF, and 5 ml of 2-(n-butoxy)ethanol is placed in a 50-ml resin pot equipped with a mechanical stirrer and a distillation head and warmed with stirring to 170° C. After heating at 170° C. for 4 hours, the gas evolution appeared to cease and the reaction mixture becomes viscous. The hot reaction mixture is poured into 8 aluminum cups and the solvent is evaporated in a vacuum oven (150° C.) for 24 hours to give 6.8 g (90 percent yield) of a yellow, brittle polymer with 12,000 molecular weight and m.p.=116° C. "p" can be calculated to be about 40. The above structure of the polymer is confirmed by nuclear magnetic resonance spectra data.

reactant | bisphenol A | 0.03 mole, 5.58 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | methyl 2-oxo-1,3-dioxolan-4-ylmethyl carbonate | 0.03 mole, 5.28 g | C(OC)(OCC1OC(OC1)=O)=O | C6H8O6
reactant | KF | 0.003 mole, 0.174 g | [F-].[K+]
reactant | 2-(n-butoxy)ethanol | 5 ml | C(CCC)OCCO | C6H14O2
reactant | aluminum | [Al] | Al
product | phenoxy resin | 90 percent yield | CC(=C1C=CC=CC1C2=CC=C(C=C2)OCC(CO)O)C | C18H22O3
